US06307054B1
Benzoyl chloride and aminoethylcyanide are reacted to give N-benzoyl-aminoethylcyanide, which is reacted with hydrogen sulfide in ammonia to yield the thioamide, which is reacted with an appropriate a-halo ketone to yield the desired thiazole. Treatment with 5N hydrochloric acid removes the protecting benzoyl group to give the desired amine product.

reactant | Benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | aminoethylcyanide | NCCC#N | C3H6N2
product | N-benzoyl-aminoethylcyanide | C(C1=CC=CC=C1)(=O)NCCC#N | C10H10N2O
